US04684727
Preparation of 1-(1,2-dihydro-4-hydroxy-1-phenyl-2-oxo-1,8-naphthyridin-3-yl)-4-hydroxy-piperidinium hydroxide, inner salt
A solution of 3-bromo-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one (1 g) in a mixture of 2,6-lutidine (5 mL) and 4-hydroxy-piperidine (3.12 g) was heated at 100° C. for 32 hours. The lutidine was removed by evaporation under high vacuum. The residue was dissolved in CH3CN(20): H2O(80): CH3CO2H(1) and separated by reversed phase preparative HPLC (Whatman Magnum 40 with Partisil 40/ODS-3). The fractions containing the desired product were combined and evaporated to yield a partially crystalline material which was recrystallized from isopropanol to yield the desired product, m.p. 256°-258° C.

reactant | 3-bromo-4-hydroxy-1-phenyl-1,8-naphthyridin-2(1H)-one | 1 g | BrC=1C(N(C2=NC=CC=C2C1O)C1=CC=CC=C1)=O | C14H9BrN2O2
solvent | 2,6-lutidine | 5 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | 4-hydroxy-piperidine | 3.12 g | OC1CCNCC1 | C5H11NO
product | 1-(1,2-dihydro-4-hydroxy-1-phenyl-2-oxo-1,8-naphthyridin-3-yl)-4-hydroxy-piperidinium hydroxide | [OH-].OC1=C(C(N(C2=NC=CC=C12)C1=CC=CC=C1)=O)[NH+]1CCC(CC1)O | InChI=1S/C19H19N3O3.H2O/c23-14-8-11-21(12-9-14)16-17(24)15-7-4-10-20-18(15)22(19(16)25)13-5-2-1-3-6-13;/h1-7,10,14,23-24H,8-9,11-12H2;1H2
